US06440995B1
(RS)-3-[2-(5,6,7,8-Tetrahydro-naphthalen-2-yl)-quinolin-4-ylamino]-propane-1,2-diol hydrochloride
The title compound, m.p. 210-230° C. and MS: m/e=348 (M+), was prepared from 4-chloro-2-(5,6,7,8-tetrahydro-naphthalen-2-yl)-quinoline and (RS)-3-amino-1,2-propandiol.

reactant | 4-chloro-2-(5,6,7,8-tetrahydro-naphthalen-2-yl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC=2CCCCC2C=C1 | C19H16ClN
reactant | (RS)-3-amino-1,2-propandiol | NCC(CO)O | C3H9NO2
product | (RS)-3-[2-(5,6,7,8-Tetrahydro-naphthalen-2-yl)-quinolin-4-ylamino]-propane-1,2-diol hydrochloride | Cl.C1=C(C=CC=2CCCCC12)C1=NC2=CC=CC=C2C(=C1)NCC(CO)O | InChI=1S/C22H24N2O2.ClH/c25-14-18(26)13-23-22-12-21(24-20-8-4-3-7-19(20)22)17-10-9-15-5-1-2-6-16(15)11-17;/h3-4,7-12,18,25-26H,1-2,5-6,13-14H2,(H,23,24);1H
